US07585878B2
2,4-Dinitrobenzaldehyde was dissolved in dioxane and water, methyl acrylate and triethylenediamine were added thereto at room temperature, and the whole was stirred to obtain methyl 2-[(2,4-dinitrophenyl)(hydroxy)methyl]acrylate.

reactant | 2,4-Dinitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | triethylenediamine | C1CN2CCN1CC2 | C6H12N2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | methyl 2-[(2,4-dinitrophenyl)(hydroxy)methyl]acrylate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(C(=O)OC)=C)O | C11H10N2O7
